datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([O:2][C:3]([H:9])([H:10])[H:11])([H:7])[H:8])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1]([H:7])[H:8])([H:4])([H:5])[H:6].[O:2]([C:3]([H:9])([H:10])[H:11])[H:12],97.3621
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:9])[H:16])[H:8],0.87864
[C:0]([C:1]([C:2]([C:3]1([H:16])[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[O:27]>>[C:0]([C:1]([C:2]([C:3]1[C:4]([H:17])([H:18])[C:5]([H:19])([H:20])[C:6]([H:21])([H:22])[C:7]([H:23])([H:24])[C:8]1([H:25])[H:26])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][O:27],4.64424
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([O:13][O:14])([H:18])[H:19])([H:15])([H:16])[H:17]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][O:14][O:13][C:12]([C:11]([H:15])([H:16])[H:17])([H:18])[H:19],61.96504
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])([H:20])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:17]([C:16]([H:20])([H:21])[H:22])([C:18]([H:23])([H:24])[H:25])[C:19]([H:26])([H:27])[H:28])[H:8])([H:6])[H:7],13.347
[C:0](=[C:1]([C:2](=[C:3]([C:4]1([H:15])[C:5]2([H:16])[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]12[H:20])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]1([H:15])[C:5]([H:16])=[C:6]([H:17])[C:7]([H:18])=[C:8]([H:19])[C:9]1[H:20])[H:14])[H:13])[H:12])([H:10])[H:11],78.2408
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[O:30][O:31]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:24][O:30][O:31],199.11656
[C:0](=[C:1]([C:2]1([H:9])[C:3]([H:10])=[C:4]([H:11])[C:5]([H:12])=[C:6]1[H:13])[H:8])[H:7]>>[C:0](=[C:1]([C:2]1=[C:3]([H:10])[C:4]([H:11])=[C:5]([H:12])[C:6]1([H:9])[H:13])[H:8])[H:7],80.20728
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([S:3][H:11])[H:7])([H:4])([H:5])[H:6].[C:12]([H:13])([H:14])[H:15]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:4])([H:5])[H:6].[S:3]([H:11])[C:12]([H:13])([H:14])[H:15],44.7688
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])([H:8])[H:9])([H:5])([H:6])[H:7].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[O:4])[H:9])([H:5])([H:6])[H:7].[H:8][C:13](=[C:14]([H:16])[H:17])[H:15],14.2256
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:15])([H:16])[H:17])[c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:14])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:17])([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[C:25]([C:24](=[C:23]([H:28])[H:29])[H:30])([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:14])[H:13])([H:11])[H:12],48.9946
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:14]([H:15])([H:16])[H:17])[H:6],15.7318
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:4])([H:5])[H:6].[C:14]([O:15])([H:16])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[H:4][O:15][C:14]([H:16])([H:17])[H:18],29.288
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([C:5]([H:14])([H:15])[H:16])([H:12])[H:13])[H:8])([H:6])[H:7]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:14])([H:15])[H:16])[H:13])[H:12])[H:8])([H:6])[H:7],192.464
[C:0](#[C:1][O:2][H:4])[H:3].[O:5][H:6]>>[C:0](#[C:1][O:2])[H:3].[H:4][O:5][H:6],4.184
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:13]([H:14])([H:15])[H:16])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],8.7864
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([C:7](=[C:8]([C:9]([H:15])([H:16])[H:17])[H:14])[H:13])([H:10])([H:11])[H:12]>>[C:0](#[C:1][C:2]([H:4])([H:5])[C:7]([C:6]([H:10])([H:11])[H:12])([C:8]([C:9]([H:15])([H:16])[H:17])[H:14])[H:13])[H:3],43.9738
